US08975254B2
b) (S)—N-(1-(3-(3-chloro-4-cyano-5-methoxyphenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-hydroxypropan-2-yl)isoxazole-3-carboxamide
A mixture of (S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-hydroxypropan-2-yl)isoxazole-3-carboxamide (50 mg, 0.116 mmol), 5 ml of dry methanol and cesium carbonate (75 mg, 0.232 mmol) was reacted with stirring for 6 days keeping the temperature at 60° C. during the day and at RT during the night. The mixture was evaporated dissolved in DCM, extracted with water and dried. The product was purified by flash chromatography. Yield 60.3%. 1H-NMR (400 MHz; DMSO-d6): δ 1.15 (d, 3H), 1.46 (s, 6H), 4.01 (s, 3H), 4.32 (d, 2H), 4.40-4.51 (m, 1H), 5.68 (s, 1H), 6.49 (s, 1H), 7.00 (d, 1H), 7.54 (d, 1H), 7.67 (d, 1H), 7.83 (d, 1H), 8.75 (d, 1H).

reactant | (S)—N-(1-(3-(3-chloro-4-cyano-5-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-hydroxypropan-2-yl)isoxazole-3-carboxamide | 0.116 mmol, 50 mg | ClC=1C=C(C=C(C1C#N)F)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)C(C)(C)O | C20H19ClFN5O3
reactant | cesium carbonate | 0.232 mmol, 75 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methanol | 5 ml | CO | CH4O
product | (S)—N-(1-(3-(3-chloro-4-cyano-5-methoxyphenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-hydroxypropan-2-yl)isoxazole-3-carboxamide | Yield 60.3% | ClC=1C=C(C=C(C1C#N)OC)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)C(C)(C)O | C21H22ClN5O4
